US04622318
To a solution of 3-ethynylpyridine (258 mg) in a mixture of tetrahydrofuran (7 ml) and hexamethylphosphoric triamide (0.3 ml) was dropwise added n-butyllithium (1.55M in hexane) (1.3 ml) at -30° C. Sulfur (72 mg) was added to the reaction mixture at -25° C. at once. The mixture was stirred for 30 minutes under ice-cooling and then allowed to warm to 15° C. to give a solution containing 3-(2-lithiothioethynyl)pyridine. This solution was added to a solution of benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylate (syn isomer) (1.4 g) in tetrahydrofuran (20 ml) at -50° C. The mixture was stirred for 40 minutes at -50° C. To the mixture was added 6N hydrochloric acid (1 ml) at -60° C. The mixture was warmed up to ambient temperature. To the mixture was added a mixture of ethyl acetate and water. The separated organic layer was dried over sodium sulfate, concentrated in vacuo, and the residue was triturated in diisopropyl ether to give a solid. The solid was subjected to column chromatography on silica gel (15 g) eluting with a mixture of ethyl acetate and n-hexane (1:1 (V/V), 4:1 (V/V)). The fractions containing the object compound were combined, concentrated in vacuo, and the residue was triturated in diethyl ether to give benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[2-(3-pyridyl)ethynylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (576 mg).

reactant | 3-ethynylpyridine | 258 mg | C(#C)C=1C=NC=CC1 | C7H5N
reactant | n-butyllithium | 1.55M, 1.3 ml | C(CCC)[Li]
reactant | Sulfur | 72 mg | [S] | S
reactant | 3-(2-lithiothioethynyl)pyridine | [Li]SC#CC=1C=NC=CC1
reactant | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylate | 1.4 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC | C27H25IN6O5S2
reactant | hydrochloric acid | 6N, 1 ml | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 0.3 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[2-(3-pyridyl)ethynylthiomethyl]-3-cephem-4-carboxylate | 576 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC#CC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC | C34H29N7O5S3
